US06921759B2
To a cold (−10° C.) stirred solution of glycine tert-butyl ester (3.0 g, 22.9 mmol) and triethylamine (7.1 mL, 50.9 mmol) in dichloromethane (150 mL), 2-chloro-ethanesulfonyl chloride (2.4 m/L, 23 mmol) in dichloromethane (10 mL) was added over a period of 15 minutes. The resulting mixture was stirred at 0° C. for 8 hours, and at room temperature overnight. The product mixture was concentrated under vacuum, and the residue was subjected to column chromatography on silica gel eluted with 40-50% ethyl acetate in hexane. Collection and concentration of appropriate fractions provided tert-butyl N-(ethenesulfonyl)glycinate.

reactant | glycine tert-butyl ester | 22.9 mmol, 3.0 g | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | triethylamine | 50.9 mmol, 7.1 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-ethanesulfonyl chloride | 23 mmol | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-butyl N-(ethenesulfonyl)glycinate | C(=C)S(=O)(=O)NCC(=O)OC(C)(C)C | C8H15NO4S
